US05773512
Preparation of the Aminobenzophenone Resin (4-Scheme 6)
A mixture of nitrobenzophenone resin, 3-Scheme 6, (950 mg), NaSH (1.0 g) in THF (10 mL), MeOH (5 mL), water (5 mL) was heated in an oil bath at 70° C. for 16 h. The mixture was cooled, filtered and washed with methanol, water, methylene chloride and finally with methanol. Drying at 60° (in vacuo gave a slight yellow resin. Recovered (900 mg). IR 1640 (broad).

reactant | nitrobenzophenone | [N+](=O)([O-])C1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H9NO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | Aminobenzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
